US08809525B2
6-Phenoxy-5-phenyl-1,2,4-triazin-3-amine (78 mg, 14%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.5 g, 1.99 mmol) and phenol (0.74 g, 7.90 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.5 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | phenol | 7.90 mmol, 0.74 g | C1(=CC=CC=C1)O | C6H6O
product | 6-Phenoxy-5-phenyl-1,2,4-triazin-3-amine | 78 mg, 14% | O(C1=CC=CC=C1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H12N4O
